US07091220B2
3-[(2-Methoxyphenyl)-piperidin-1-yl-methyl]-2-phenyl-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 2-phenyl-1H-indole and 1-(2-methoxy-benzylidene)-piperidinium chloride.

reactant | 2-phenyl-1H-indole | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | 1-(2-methoxy-benzylidene)-piperidinium chloride | [Cl-].COC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 3-[(2-Methoxyphenyl)-piperidin-1-yl-methyl]-2-phenyl-1H-indole | COC1=C(C=CC=C1)C(C1=C(NC2=CC=CC=C12)C1=CC=CC=C1)N1CCCCC1 | C27H28N2O
